US06936608B2
d) 3-[3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-ylphenyl-1-methyl-1H-[1,2,4]triazole
A mixture of 3-(3-bromophenyl)-1-methyl-1H-[1,2,4]triazole (935 mg, 3.93 mmol), bis(neopentyl glycolato)diboron (932 mg, 4.13 mmol), potassium acetate (1.16 g, 11.8 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (160 mg, 5 mol %) in 1,4-dioxane (40 ml) was degassed with a stream of nitrogen for 10 min and then heated at 110° C. for 12 h. The reaction mixture was concentrated under reduced pressure and water (50 ml) was added; this was extracted with ethyl acetate (2×50 ml). The combined extracts were washed with brine (25 ml), dried (MgSO4) and concentrated to give the title compound (106 mg, 99%): 1H NMR (400 MHz, CDCl3) δ 8.55 (1H, s), 8.13 (1H, d, J 7.8 Hz), 8.07 (1H, s), 7.83 (1H, d, J 7.8 Hz), 7.42 (1H, t, J 7.8 Hz), 3.97 (1H, s), 3.77 (4H, s), 1.02 (6H, s); MS (ES+) m/z 204 (ArB(OH)2, [M+H]+).

reactant | 3-(3-bromophenyl)-1-methyl-1H-[1,2,4]triazole | 3.93 mmol, 935 mg | BrC=1C=C(C=CC1)C1=NN(C=N1)C | C9H8BrN3
reactant | bis(neopentyl glycolato)diboron | 4.13 mmol, 932 mg | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 11.8 mmol, 1.16 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 160 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5,5-Dimethyl-[1,3,2]dioxaborinan-2-ylphenyl-1-methyl-1H-[1,2,4]triazole | 106 mg, 99% | CC1(COB(OC1)C1=NC(=NN1C)C1=CC=CC=C1)C | C14H18BN3O2
